US08236826B2
Production of ethyl 3-(4-{5-[benzyloxycarbonyl(2-methoxyethyl)amino]pyridin-2-yloxy}phenyl)propionate
Under a nitrogen atmosphere, to a solution of ethyl 3-[4-(5-benzyloxycarbonylaminopyridin-2-yloxy)phenyl]propionate (1.7 g, 4.0 mmol) in DMF (50 mL) was added 60% sodium hydride (0.19 g, 4.9 mmol) under ice cooling, and the resulting solution was stirred for 35 minutes at the same temperature. 2-Bromoethylmethyl ether (0.4 mL, 4.2 mmol) was added dropwise to the solution. The reaction solution was stirred for 2 hours under ice cooling, and then stirred for 2 days at room temperature. To the reaction solution was added water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1), to thereby yield 1.6 g of the title compound.

reactant | ethyl 3-[4-(5-benzyloxycarbonylaminopyridin-2-yloxy)phenyl]propionate | 4.0 mmol, 1.7 g | C(C1=CC=CC=C1)OC(=O)NC=1C=CC(=NC1)OC1=CC=C(C=C1)CCC(=O)OCC | C24H24N2O5
reactant | sodium hydride | 4.9 mmol, 0.19 g | [H-].[Na+]
reactant | 2-Bromoethylmethyl ether | 4.2 mmol, 0.4 mL | BrCCOC | C3H7BrO
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 3-(4-{5-[benzyloxycarbonyl(2-methoxyethyl)amino]pyridin-2-yloxy}phenyl)propionate | C(C1=CC=CC=C1)OC(=O)N(C=1C=CC(=NC1)OC1=CC=C(C=C1)CCC(=O)OCC)CCOC | C27H30N2O6
